US03954732
2,2,2-Trichloroethyl 3-bromo-3-methyl-7-(2-phenylacetamido)-cepham-4-carboxylate (1.10 g) was dissolved in methylene chloride (15 ml) and to this solution was added aniline (0.28 g). And to the solution was added silver fluoroborate (0.45 g) under stirring under ice-cooling and the mixture was stirred for 4 hours at the same temperature. After the reaction was completed, the reaction mixture was filtered. The filtrate was washed with a dilute aqueour solution of phosphoric acid and then with water, dried over magnesium sulfate and concentrated. The residue was subjected to column chromatography on silica gel (25 g) and eluted with chloroform. The eluate was separated into fractions of each about 20 ml and the second to eighth fractions were collected and then the solvent was distilled off to give 2,2,2-trichloroethyl 2-anilinomethyl-2-methyl-6-(2-phenylacetamido)penam-3-carboxylate (0.54 g), mp 148° to 149°C. Infrared Absorption Spectrum (CHCl3) 3400, 1780, 1765, 1680 cm-1.

reactant | 2,2,2-Trichloroethyl 3-bromo-3-methyl-7-(2-phenylacetamido)-cepham-4-carboxylate | 1.10 g | BrC1(CS[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O)C | C18H18BrCl3N2O4S
reactant | aniline | 0.28 g | NC1=CC=CC=C1 | C6H7N
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
catalyst | silver fluoroborate | 0.45 g | F[B-](F)(F)F.[Ag+]
product | 2,2,2-trichloroethyl 2-anilinomethyl-2-methyl-6-(2-phenylacetamido)penam-3-carboxylate | 0.54 g | N(C1=CC=CC=C1)CC1(S[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O)C | C24H24Cl3N3O4S
